### PR TITLE
[Merged by Bors] - chore: move dominated convergence to general versions for setToFun

### PR DESCRIPTION
**Pull request by sgouezel**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Integral/DominatedConvergence.lean [hunk 1]
```diff
@@ -82,55 +82,18 @@ theorem hasSum_integral_of_dominated_convergence {ι} [Countable ι] {F : ι →
...
-    filter_upwards [eventually_countable_forall.2 h_bound, hb_nonneg, bound_summable]
-      with a hFa ha0 has
-    calc
-      ‖∑ n ∈ s, F n a‖ ≤ ∑ n ∈ s, bound n a := norm_sum_le_of_le _ fun n _ => hFa n
-      _ ≤ ∑' n, bound n a := has.sum_le_tsum _ (fun n _ => ha0 n)
+  simp only [integral_eq_setToFun]
+  exact hasSum_setToFun_of_dominated_convergence _ bound hF_meas h_bound bound_summable
+    bound_integrable h_lim
 
 set_option backward.defeqAttrib.useBackward true in
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Integral/DominatedConvergence.lean]: Is this line still needed?

**Review by RemyDegenne — APPROVED** [review]
Thanks!
bors d+

File: Mathlib/MeasureTheory/Integral/DominatedConvergence.lean (hunk 1 above)
Comment (sgouezel) [reply Mathlib/MeasureTheory/Integral/DominatedConvergence.lean]: No, good catch!
